US05856274
Potassium permanganate (33.66 g) was added in portions to a stirred heated suspension of 2,4-dichloro-3-(methylsulphonyl)toluene (16.88 g) in water at 95°-100° C. The mixture was stirred and heated at reflux for one and a half hours. The hot suspension was filtered and the filtrate was cooled to 0° C. and acidified. It was filtered to give 2,4-dichloro-3-(methylsulphonyl)benzoic acid (5.35 g) as an orange solid, m.p. 157.5°-158.5° C.

reactant | Potassium permanganate | 33.66 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 2,4-dichloro-3-(methylsulphonyl)toluene | 16.88 g | ClC1=C(C=CC(=C1S(=O)(=O)C)Cl)C | C8H8Cl2O2S
reactant | water | O | H2O
product | 2,4-dichloro-3-(methylsulphonyl)benzoic acid | 5.35 g | ClC1=C(C(=O)O)C=CC(=C1S(=O)(=O)C)Cl | C8H6Cl2O4S
